* LM4040A25 supported-region boundary at maximum recommended current
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* LM4040A25 (Texas Instruments), datasheet SNOS633N, December 1991, revised August 2025, fitted 2026-08-07
* Archetype: archetype-vreg.md, variant SHUNT two-terminal. Manual run: R1-regulators-2026-08-07
* Node order: K A
.subckt OC_LM4040A25 K A
+ PARAMS: VREF=2.5 IKMIN=4.5e-05 IKMAX=0.02 ZKA=0.3
BK K A I = IKMIN + (IKMAX-IKMIN)*tanh({1/(ZKA*(IKMAX-IKMIN))}*0.5*((v(K,A)-VREF)+sqrt((v(K,A)-VREF)*(v(K,A)-VREF)+1e-12)))
RKA K A 1e7
.ends OC_LM4040A25
.temp 25
IBIAS 0 k DC 0.015
X1 k 0 OC_LM4040A25
.op
.end
